US09422307B2
3-(4-Amino-2-(6-(4-ethylpiperazin-1-yl)pyridin-3-ylamino)thieno[3,2-d]pyrimidin-7-yl)-N-methylbenzamide (300 mg, 0.615 mmol) was dissolved in tetrahydrofuran (5 mL) and then 4 M hydrogen chloride (169 μL) dissolved in dioxane was added at room temperature. 5 hours later, thus prepared precipitate was filtered and dried at room temperature. The target compound 3-(4-amino-2-(6-(4-ethylpiperazin-1-yl)pyridin-3-ylamino)thieno[3,2-d]pyrimidin-7-yl)-N-methylbenzamide hydrochloride (295 mg) was yielded.

reactant | 3-(4-Amino-2-(6-(4-ethylpiperazin-1-yl)pyridin-3-ylamino)thieno[3,2-d]pyrimidin-7-yl)-N-methylbenzamide | 0.615 mmol, 300 mg | NC=1C2=C(N=C(N1)NC=1C=NC(=CC1)N1CCN(CC1)CC)C(=CS2)C=2C=C(C(=O)NC)C=CC2 | C25H28N8OS
reactant | hydrogen chloride | 4 M, 169 μL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(4-amino-2-(6-(4-ethylpiperazin-1-yl)pyridin-3-ylamino)thieno[3,2-d]pyrimidin-7-yl)-N-methylbenzamide hydrochloride | 295 mg | Cl.NC=1C2=C(N=C(N1)NC=1C=NC(=CC1)N1CCN(CC1)CC)C(=CS2)C=2C=C(C(=O)NC)C=CC2 | InChI=1S/C25H28N8OS.ClH/c1-3-32-9-11-33(12-10-32)20-8-7-18(14-28-20)29-25-30-21-19(15-35-22(21)23(26)31-25)16-5-4-6-17(13-16)24(34)27-2;/h4-8,13-15H,3,9-12H2,1-2H3,(H,27,34)(H3,26,29,30,31);1H
